US04002640
6.4 G. of 1-amino-2-nitro-4-(2-ethoxyethylthio) benzene in 100 ml. of methanol and 50 ml. of water is treated with 16 ml. of sodium dithionite and 14 g. sodium carbonate at reflux under nitrogen. Heating is continued for one-half hour, then the methanol is evaporated from the mixture. The mixtue is diluted with 100 ml. of water and is extracted with chloroform. The chloroform solution is dried over sodium sulfate and 1,2-diamino-4-(2-ethoxyethylthio) benzene is obtained by evaporation of the solution.

reactant | 1-amino-2-nitro-4-(2-ethoxyethylthio) benzene | NC1=C(C=C(C=C1)SCCOCC)[N+](=O)[O-] | C10H14N2O3S
reactant | methanol | CO | CH4O
reactant | sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 1,2-diamino-4-(2-ethoxyethylthio) benzene | NC1=C(C=C(C=C1)SCCOCC)N | C10H16N2OS
